US09303012B2
a) 6-Chloro-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl ester
Under a nitrogen atmosphere a mixture of methyl 5-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester (Example 3 a, 2 g, 8 mmol), 3,3-difluoroazetidine hydrochloride (CAN 288315-03-7, 1 g, 8 mmol), tris(dibenzylideneacetone)dipalladium (CAN 51364-51-3, 0.16 g, 0.16 mmol), (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (CAN 76189-55-4, 0.19 g, 0.32 mmol) and cesium carbonate (3.9 g, 12 mmol) in toluene (50 mL) was stirred at 110° C. overnight. After concentration, the residue was partitioned between water (50 mL) and ethyl acetate (40 mL), the aqueous phase was extracted with ethyl acetate (2×40 mL). The combined organic phase was washed with brine (40 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, 20 g, 10% ethyl acetate in petroleum ether) to give the target compound (0.44 g, 21%) as light-yellow solid; MS (EI): m/e=263.0 [MH+].

reactant | methyl 5-bromo-6-chloro-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1C)Br)Cl | C8H7BrClNO2
reactant | 3,3-difluoroazetidine hydrochloride | 8 mmol, 1 g | Cl.FC1(CNC1)F
reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.32 mmol, 0.19 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.16 mmol, 0.16 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Chloro-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid methyl ester | 0.44 g, 21% | COC(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)Cl | C10H9ClF2N2O2
